US04666916
(±)-[4aR*,10bS*]-1,3,4,4a,5,10b-Hexahydro-2-propyl-2H-[1]benzopyrano[4,3-c]pyridine
A solution of 0.235 g (±)-[4aR*,10bS*]-1,3,4,4a,5,10b-hexahydro-2H-[1]benzopyrano[4,3-c]pyridine in 5 ml toluene is refluxed with 200 mg iodopropane and 3 ml saturated NaHCO3 solution for 2 hours. The organic phase is separated, dried over Na2SO4, filtered, concentrated in vacuo, and flash chromatographed with CH2Cl2 /ammonia saturated methanol (95:5)to give the title compound; m.p. HCl salt 245°-247°.

reactant | (±)-[4aR*,10bS*]-1,3,4,4a,5,10b-hexahydro-2H-[1]benzopyrano[4,3-c]pyridine | 0.235 g | C1NCC[C@@H]2[C@H]1C1=C(OC2)C=CC=C1 | C12H15NO
reactant | iodopropane | 200 mg | ICCC | C3H7I
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-[4aR*,10bS*]-1,3,4,4a,5,10b-Hexahydro-2-propyl-2H-[1]benzopyrano[4,3-c]pyridine | C(CC)N1C[C@H]2[C@@H](CC1)COC1=C2C=CC=C1 | C15H21NO
